US04556654
2-(2-Aminoethyl)-5-chloro-7,10-bis(phenylmethoxy)anthra[1,9-cd]pyrazol-6(2H)-one is prepared from 1,4-dichloro-5,8-bis(phenylmethoxy)-9,10-anthracenedione and (2-aminoethyl)hydrazine as described in Example 54 to give the product; mp 176°-178° C.

reactant | 1,4-dichloro-5,8-bis(phenylmethoxy)-9,10-anthracenedione | ClC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)Cl | C28H18Cl2O4
reactant | (2-aminoethyl)hydrazine | NCCNN | C2H9N3
product | 2-(2-Aminoethyl)-5-chloro-7,10-bis(phenylmethoxy)anthra[1,9-cd]pyrazol-6(2H)-one | NCCN1N=C2C3=C1C=CC(=C3C(C3=C(C=CC(=C32)OCC3=CC=CC=C3)OCC3=CC=CC=C3)=O)Cl | C30H24ClN3O3
